US07414076B2
Preparation of 3-(3,5-dimethoxybenzyl)amino-1-propanesulfonic acid (Compound BA)
To a solution of 3,5-dimethoxybenzylamine (2.5 g, 15.0 mmol) in 2-butanone (22 mL) was added 1,3-propane sultone (1.95 g, 15.8 mmol). The mixture was stirred at reflux for 2 hours. The reaction mixture was cooled to room temperature. The solid was collected by filtration, washed with acetone (2×25 mL), and dried in vacuo. This allowed the isolation of compound BA, 2.89 g (67%).

reactant | 3,5-dimethoxybenzylamine | 15.0 mmol, 2.5 g | COC=1C=C(CN)C=C(C1)OC | C9H13NO2
reactant | 1,3-propane sultone | 15.8 mmol, 1.95 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | 2-butanone | 22 mL | CC(CC)=O | C4H8O
product | 3-(3,5-dimethoxybenzyl)amino-1-propanesulfonic acid | COC=1C=C(CNCCCS(=O)(=O)O)C=C(C1)OC | C12H19NO5S
